US07893067B2
Step d) 4-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-benzoic acid methyl ester
4-(2-Bromo-2-fluoro-acetyl)-benzoic acid methyl ester (1.18 mmol) and 4-methyl-piperazine-1-carbothioic acid amide (1.18 mmol) were dissolved in ethanol (10 mL). The reaction was heated at reflux for 2 h. The reaction was cooled to RT causing the product to precipitate. The product was collected by filtration and washed with cold ethanol. The product was given an aqueous sodium bicarbonate work up to yield the title compound as a colourless oil (74%). MS (ES+) 337 (M+H, 100%).

reactant | 4-(2-Bromo-2-fluoro-acetyl)-benzoic acid methyl ester | 1.18 mmol | COC(C1=CC=C(C=C1)C(C(F)Br)=O)=O | C10H8BrFO3
reactant | 4-methyl-piperazine-1-carbothioic acid amide | 1.18 mmol | CN1CCN(CC1)C(N)=S | C6H13N3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-benzoic acid methyl ester | 74% | COC(C1=CC=C(C=C1)C=1N=C(SC1F)N1CCN(CC1)C)=O | C16H18FN3O2S
